US05021413
1--(6,7-dichloro-1,2,3,4-tetrahydro-4-oxo-1-naphthoyl)-4-methyl-2-(pyrrolidin-1-ylmethyl)piperazine dihydrochloride
The procedure described in Example 24 was repeated, but using 1.0 g of 1-methyl-3-(pyrrolidin-1-ylmethyl)piperazine trihydrochloride, 2.1 ml of triethylamine and 1.0 g of 6.7-dichloro-1,2,3,4-tetrahydro-4-oxo-1-naphthoyl chloride, to afford 0.97 g of the title compound, melting at 275°-278° C. (dec.).

reactant | 1-methyl-3-(pyrrolidin-1-ylmethyl)piperazine trihydrochloride | 1.0 g | Cl.Cl.Cl.CN1CC(NCC1)CN1CCCC1
reactant | 6.7-dichloro-1,2,3,4-tetrahydro-4-oxo-1-naphthoyl chloride | 1.0 g | ClC=1C=C2C(CCC(C2=CC1Cl)C(=O)Cl)=O | C11H7Cl3O2
solvent | triethylamine | 2.1 ml | C(C)N(CC)CC | C6H15N
product | 1--(6,7-dichloro-1,2,3,4-tetrahydro-4-oxo-1-naphthoyl)-4-methyl-2-(pyrrolidin-1-ylmethyl)piperazine dihydrochloride | 0.97 g | Cl.Cl.ClC=1C=C2C(CCC(C2=CC1Cl)C(=O)N1C(CN(CC1)C)CN1CCCC1)=O | InChI=1S/C21H27Cl2N3O2.2ClH/c1-24-8-9-26(14(12-24)13-25-6-2-3-7-25)21(28)15-4-5-20(27)17-11-19(23)18(22)10-16(15)17;;/h10-11,14-15H,2-9,12-13H2,1H3;2*1H
